US07589095B2
4-Benzyloxybutyric acid (6.38 mL), Meldrum's acid (5.76 g) and dimethylaminopyridine (9.77 g) were dissolved in DCM (200 mL) and cooled to 0° C. A solution of isopropenyl chloroformate in dichloromethane (100 mL) was added dropwise and stirring at 0° C. continued for a further 2 h. Potassium hydrogen sulphate (200 mL of a 10% aqueous solution) was then added, the organic phase separated, dried over sodium sulphate, and evaporated under reduced pressure. The residue was dissolved in ethanol (200 mL) and heated at reflux overnight. Following cooling, the solvent was evaporated under reduced pressure and the resultant oil was purified by flash silica column chromatography. 6-Benzyloxy-3-oxo-hexanoic acid ethyl ester was isolated as an orange oil (8.53 g).

reactant | 4-Benzyloxybutyric acid | 6.38 mL | C(C1=CC=CC=C1)OCCCC(=O)O | C11H14O3
reactant | Meldrum's acid | 5.76 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | dimethylaminopyridine | 9.77 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | isopropenyl chloroformate | ClC(=O)OC(=C)C | C4H5ClO2
reactant | Potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 6-Benzyloxy-3-oxo-hexanoic acid ethyl ester | C(C)OC(CC(CCCOCC1=CC=CC=C1)=O)=O | C15H20O4
